US06599917B1
b) 2-Benzyl-3-methoxymethyloxy-6-(tetrahydro-4H-pyran-4-yl)pyridine
20 mg of 10% palladium carbon was added to a mixture of 197 mg of 2-benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-methoxymethyloxypyridine and 3 ml of ethanol, followed by stirring at room temperature overnight in a hydrogen atmosphere. After the atmosphere in the reaction system was replaced by nitrogen, the reaction solution was filtered through Celite. The solvent was removed, and then the residue was subjected to silica gel column chromatography using 20% ethyl acetate/hexane, to give 83.7 mg of the target compound.

reactant | 2-benzyl-6-(5,6-dihydro-2H-pyran-4-yl)-3-methoxymethyloxypyridine | 197 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)C1=CCOCC1 | C19H21NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 20 mg | [C].[Pd]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-Benzyl-3-methoxymethyloxy-6-(tetrahydro-4H-pyran-4-yl)pyridine | 83.7 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)C1CCOCC1 | C19H23NO3
